US07790752B2
b) 6-Chloro-1H-indole-3-carboxylic acid
A solution of 21.6 g (87.2 mmol) 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone in 110 ml of a 4 M aqueous solution of potassium hydroxide was heated at reflux for 2 h. After cooling to 0° C. neutralisation with 36.7 ml of a concentrated aqueous hydrochloric acid solution a white solid precipitated from the solution. The solid was collected by filtration and washed with water. Drying in high vacuo at 80° C. gave 16.4 g (96%) of the title compound as a light yellow solid.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 87.2 mmol, 21.6 g | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 36.7 ml | Cl | ClH
product | 6-Chloro-1H-indole-3-carboxylic acid | 16.4 g, 96% | ClC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6ClNO2
